* E:\GIT\Ammeter\IO_Miernik.asc
V1 V+ 0 12V
V2 0 V- 12V
V3 N018 N013 PULSE(0.01 0.2 0 1 1 0)
XU1 N015 N006 V+ V- N007 LT1001
R1 N006 N013 1k
R2 N007 N006 50k
XU2 N014 N008 V+ V- 0-10V LT1001
R3 5V+ N004 47k
R4 N004 0 5k1
R6 N014 0 16k
R7 N008 500mV 15k
R8 0-10V N008 16k
R12 N003 5V+ 82k
R13 0 N003 20k
R10 0-10V N019 150k
R11 N019 0 100k
XU4 N012 N005 V+ V- 1-5V LT1001
R16 1-5V N005 5k6
XU5 N003 N001 V+ V- 1V LT1001
R17 1V N001 1Meg
XU6 N019 N016 V+ V- N017 LT1001
R18 N017 N016 10Meg
R14 N012 N017 5k6
R15 N012 1V 5k6
R19 N005 0 5k6
XU7 N004 N002 V+ V- 500mV LT1001
R20 500mV N002 1Meg
R21 N014 N007 15k
R5 N015 N018 1k
R9 N013 N018 0.1R
R22 N015 0 50k
R23 5V+ V+ 130
R24 V- 5V- 130
C1 0 5V+ 15µ
C2 5V- 0 15µ
Q2 N009 N011 N010 0 NPN
XU9 1-5V N010 V+ V- N011 LT1001
R25 N010 0 250
R26 V+ N009 300
XU10 0 5V+ DI_1N4733A
XU11 5V- 0 DI_1N4733A
.model NPN NPN
.model PNP PNP
.lib C:\Users\hans\Documents\LTspiceXVII\lib\cmp\standard.bjt
.tran 0 2 0 .1
.lib E:\GIT\Zener_5V1_1N4733A.mod
.lib LTC.lib
.backanno
.end
